US05512581
To a solution of 2-nitro-5-(2-quinolylmethoxy)benzyl alcohol (1.74 g, 5.6 mmol), prepared in step 1, and dicyclohexylcarbodiimide (3.71 g, 18 mmol) in DMSO (25 ml) was added 1M solution of phosphoric acid in DMSO (2.7 ml), and the resulting mixture was stirred at room temperature for 1 hour. Ethyl acetate (100 ml) was then added and the precipitated dicyclohexylurea was filtered off. The filtrate was washed with water, and brine, dried over MgSO4, and concentrated in vacuo. The residue was chromatographed (silica gel, methylene chloride-ethyl acetate 15:1) to afford 1.25 g of 2-nitro-5-(2-quinolylmethoxy)benzaldehyde.

reactant | 2-nitro-5-(2-quinolylmethoxy)benzyl alcohol | 5.6 mmol, 1.74 g | [N+](=O)([O-])C1=C(CO)C=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C17H14N2O4
reactant | dicyclohexylcarbodiimide | 18 mmol, 3.71 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phosphoric acid | P(O)(O)(O)=O | H3O4P
reactant | Ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 25 ml | CS(=O)C | C2H6OS
solvent | DMSO | 2.7 ml | CS(=O)C | C2H6OS
product | 2-nitro-5-(2-quinolylmethoxy)benzaldehyde | 1.25 g | [N+](=O)([O-])C1=C(C=O)C=C(C=C1)OCC1=NC2=CC=CC=C2C=C1 | C17H12N2O4
